US07156884B2
To a mixture of 3.21 g (15 mmol) of 2,6-diamino-3-((pyridin-3-yl)azo)pyridine and 0.27 g (2.2 mmol) of N,N-dimethylamino-pyridine in 100 ml of tetrahydrofurane, 4.27 g (37.5 mmol) of glutaric anhydride was added at room temperature. The mixture was refluxed for 16 hours. The mixture was then filtered, the solvent was evaporated and the crude product was dissolved in ethylacetate and extracted three times with a 1N sodium hydroxide solution. The combined aqueous extracts were acidified with conc. HCI at 0° C. A precipitate was formed, and filtration yielded an orange solid. The solid so obtained was washed with water. After drying the product was recristallised in methanol/water mixture and 1.9 g (40% yield) of 5-[(6-amino-5-(3-pyridinyldiazenyl)-2-pyridinyl)amino]-5-oxopentanoic acid were obtained.

reactant | 2,6-diamino-3-((pyridin-3-yl)azo)pyridine | 15 mmol, 3.21 g | NC1=NC(=CC=C1N=NC=1C=NC=CC1)N | C10H10N6
reactant | glutaric anhydride | 37.5 mmol, 4.27 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | 5-[(6-amino-5-(3-pyridinyldiazenyl)-2-pyridinyl)amino]-5-oxopentanoic acid | 1.9 g, 40% yield | NC1=C(C=CC(=N1)NC(CCCC(=O)O)=O)N=NC=1C=NC=CC1 | C15H16N6O3
